US08865712B2
b) (6-Bromo-pyridin-2-yl)-acetic acid
2-(6-Bromo-pyridin-2-yl)-malonic acid diethyl ester (64.0 g, 202.4 mmol) was added to a solution of potassium carbonate (279.8 g, 2024 mmol) in water (400 ml) at rt and the reaction mixture was heated to reflux at 100° C. for 36 h. The reaction mixture was treated with sat. ammonium chloride solution and the product formed was extracted with ethyl acetate (3×800 ml), washed with brine (10 ml). Organic layer was concentrated under reduced pressure to obtain title compound as a pale brown solid. Yield=34.0 g (77.7%). TLC (50% ethyl acetate in hexane) Rf=0.11; LCMS: RtH8=0.45; [M+1]=216.0 and 218.0.

reactant | 2-(6-Bromo-pyridin-2-yl)-malonic acid diethyl ester | 202.4 mmol, 64.0 g | C(C)OC(C(C(=O)OCC)C1=NC(=CC=C1)Br)=O | C12H14BrNO4
reactant | potassium carbonate | 2024 mmol, 279.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 400 ml | O | H2O
product | (6-Bromo-pyridin-2-yl)-acetic acid | BrC1=CC=CC(=N1)CC(=O)O | C7H6BrNO2
